US08012966B2
5-(2-Diethylamino-ethyl)-2-[4-(2-hydroxy-ethyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 1 with 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (prepared according to US2004186160) as starting materials to give 5-(2-diethylamino-ethyl)-2-[4-(2-hydroxy-ethyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (30 mg, 35.0%) as a yellow solid.

reactant | 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)CC | C15H23N3O2
reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
product | 5-(2-diethylamino-ethyl)-2-[4-(2-hydroxy-ethyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 30 mg, 35.0% | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=C2C(NC1=CC=CC(=C21)CCO)=O)=O)CC | C25H32N4O3
